US09212155B2
To a chilled (0° C.) solution of 2-(2-fluoro-biphenyl-4-yl)propionic acid in THF was added isobutyl chloroformate followed by dropwise addition of TEA. The resulting white slurry was allowed to stir for 1 hour and then diluted with THF (50 mL) and filtered. The filter cake was washed with additional THF (50 mL) and the filtrate was concentrated to approximately 50 mL using a rotary evaporator. The concentrated filtrate was then stirred at −20° C. and a solution of NaBH4 in H2O (20 mL) was dropwise added over a period of 15 minutes. The resulting suspension was stirred for 2 hours at 0° C., diluted with water (200 mL), and extracted with ethyl acetate (2×100 mL). The ethyl acetate layers were combined and washed with 1.0 N HCl solution (100 mL) followed by a 5% bicarbonate solution wash (100 mL). The ethyl acetate solution was then concentrated to an oily residue of 2-(2-fluoro-biphenyl-4-yl)propanol (4.47 g, 95% yield).

reactant | 2-(2-fluoro-biphenyl-4-yl)propionic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2-fluoro-biphenyl-4-yl)propanol | 4.47 g, 95% yield | FC1=C(C=CC(=C1)C(CO)C)C1=CC=CC=C1 | C15H15FO
